US07015233B2
5-hexahydro-1H-azepin-1-ylindan-1-one
5-Fluoroindan-1-one (5 g, 33.3 mmol) and azepane (9.92 g, 100 mmol) were dissolved in pyridine (20 ml) and heated at reflux for 3 hours, stirred at ambient temperature for 16 hours, and then heated at reflux for an additional 6 hours. The solvent was removed under vacuum and the residue partitioned between methylene chloride and water. The organic layer was washed with 1N aqueous sodium hydroxide, dried with magnesium sulfate, filtered, and the filtrate was concentrated under vacuum. The residue was filtered through a pad of silica gel with 1:1 ethyl acetate:hexanes, and the solvent evaporated under vacuum to provide the title compound which was used without further purification. 1H NMR (CDCl3) δ 1.56 (m, 4H), 1.81 (m, 4H), 2.62 (m, 2H), 3.02 (m, 2H), 3.55 (t, 4H), 6.59 (d, 1H), 6.68 (dd, 1H), 7.61 (d, 1H); MS (DCI) 230(M+H)+.

reactant | 5-Fluoroindan-1-one | 33.3 mmol, 5 g | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | azepane | 100 mmol, 9.92 g | N1CCCCCC1 | C6H13N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 5-hexahydro-1H-azepin-1-ylindan-1-one | N1(CCCCCC1)C=1C=C2CCC(C2=CC1)=O | C15H19NO
